US09238644B2
(a) tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (A43)
A mixture of 1-(2-(2-(2-chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide A40 (0.250 g, 0.792 mmol), tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.422 g, 1.58 mmol), Pd(OAc)2 (0.004 g, 0.016 mmol), Xantphos (0.018 g, 0.032 mmol) and Cs2CO3 (0.774 g, 2.38 mmol) in dioxane (15 mL) was bubbled with N2 for 10 minutes and then stirred in the microwave at 120° C. for 20 minutes. The volatiles were removed in vacuo and the residue was adsorbed onto SiO2 and purified by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A43 as a brown solid (0.118 g, 27%). LCMS-D: rt 3.40 min; m/z 546 [M+H]+.

reactant | 1-(2-(2-(2-chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)C | C17H18ClN3O
reactant | tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate | 1.58 mmol, 0.422 g | NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H22N4O2
reactant | Xantphos | 0.032 mmol, 0.018 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 2.38 mmol, 0.774 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.016 mmol, 0.004 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2C)NC=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C30H39N7O3
